US07547691B2
2-{5-Chloro-2-[3-(1-ethylpiperidin-4-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide di-hydrochloride
Using the method of 2-{5-chloro-2-[2-(1-ethylpiperidin-4-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide di-hydrochloride, the title compound may be prepared as the di-hydrochloride acid salt from 2-[5-chloro-2-(3-piperidin-4-yl-propylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid cyclopropylamide and iodoethane. ES+(m/z) 498 (35Cl) and 500 (37Cl) [M(free base)+H].

reactant | 2-{5-chloro-2-[2-(1-ethylpiperidin-4-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide di-hydrochloride | Cl.Cl.C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCC2CCN(CC2)CC
reactant | 2-[5-chloro-2-(3-piperidin-4-yl-propylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCC2CCNCC2 | C24H28ClN5OS
reactant | iodoethane | ICC | C2H5I
product | 2-{5-Chloro-2-[3-(1-ethylpiperidin-4-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide di-hydrochloride | Cl.Cl.C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCC2CCN(CC2)CC | InChI=1S/C26H32ClN5OS.2ClH/c1-2-32-13-10-17(11-14-32)5-4-12-28-26-29-16-21(27)24(31-26)23-15-20-19(6-3-7-22(20)34-23)25(33)30-18-8-9-18;;/h3,6-7,15-18H,2,4-5,8-14H2,1H3,(H,30,33)(H,28,29,31);2*1H
